US06924400B2
(e) 2-Bromo-4-ethoxymethoxy-1-methylbenzene
12.1 g (65 mmol) of 3-bromo-4-methylphenol are placed in 100 ml of dry dimethylformamide in a round-bottomed flask and under a stream of nitrogen. At 0° C., 3.1 g (78 mmol) of 60% sodium hydride are added slowly. After 1 hour, 7.3 ml (78 mmol) of methoxyethyl chloride are added dropwise. The mixture is stirred at room temperature overnight. It is then poured into water and extracted with ethyl acetate. The organic phase is dried over magnesium sulfate, filtered and then evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (85/15) to give 13.2 g (83%) of the expected product in the form of an oil.

reactant | 3-bromo-4-methylphenol | 65 mmol, 12.1 g | BrC=1C=C(C=CC1C)O | C7H7BrO
reactant | sodium hydride | 78 mmol, 3.1 g | [H-].[Na+]
reactant | methoxyethyl chloride | 78 mmol, 7.3 ml | COCCCl | C3H7ClO
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-Bromo-4-ethoxymethoxy-1-methylbenzene | 13.2 g, 83% | BrC1=C(C=CC(=C1)OCOCC)C | C10H13BrO2
